US06455550B1
4-Amino-N-[[1-[(4-methoxyphenyl)methyl]cyclopentyl]carbonyl]-L-phenylalanine methyl ester (23.4 mg, 0.057 mmol) and 2-methyl-5-nitrobenzoic acid 13 mg, 0.07 mmol) were reacted as described in example 40 to give 23 mg (69%) of N-[[1-[(4-methoxyphenyl)methyl]cyclopentyl]carbonyl]-4-[[(2-methyl-5-nitrophenyl)carbonyl]amino]-L-phenylalanine, HR-FAB-MS: obs. mass 560.2413. Calcd. mass 560.2397 (M+H).

reactant | 4-Amino-N-[[1-[(4-methoxyphenyl)methyl]cyclopentyl]carbonyl]-L-phenylalanine methyl ester | 0.057 mmol, 23.4 mg | COC([C@@H](NC(=O)C1(CCCC1)CC1=CC=C(C=C1)OC)CC1=CC=C(C=C1)N)=O | C24H30N2O4
reactant | 2-methyl-5-nitrobenzoic acid | 0.07 mmol, 13 mg | CC1=C(C(=O)O)C=C(C=C1)[N+](=O)[O-] | C8H7NO4
product | N-[[1-[(4-methoxyphenyl)methyl]cyclopentyl]carbonyl]-4-[[(2-methyl-5-nitrophenyl)carbonyl]amino]-L-phenylalanine | 23 mg, 69% | COC1=CC=C(C=C1)CC1(CCCC1)C(=O)N[C@@H](CC1=CC=C(C=C1)NC(=O)C1=C(C=CC(=C1)[N+](=O)[O-])C)C(=O)O | C31H33N3O7
